US20010018525A1
Step 3 [3,5,3″,5″-Tetramethyl-5′-(8-phenyl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]acetic acid
To a solution of N-8-phenyloctyl-3,5-bis-(3,5-dimethylphenyl)-4-(2-hydroxyethoxy)benzamide (850 mg, 1.47 mmol) in 15 mL of acetonitrile was added NMMO (415 mg, 3.05 mmol) and TPAP (52 mg, 0.149 mmol). The reaction was stirred for 2 hours then an additional 40 mg, 0.3 mmol NMMO and 52 mg, 0.149 nmuol TPAP were added. The reaction was stirred overnight and an additional 40 mg, 0.3 mmol, NMMO was added. The reaction was stirred an additional two hours then water was added followed by the addition of sodium bisulfite/sodium dithionite. The aqueous mixture was stirred for 1 hour then it was extracted with EtOAc (3×). The combined extracts were dried with Na2SO4 and concentrated to give a black oil. This oil was subjected to flash chromatography (20%EtOAc:80% Hexanes acidified with 1% CH3COOH) on HCOOH pretreated silica gel. There yielded 200 mg of the desired acid plus a fraction consisting of the desired acid and other impurities. This fraction was chromatographed again using the same solvent system to give 30 mg more of the acid for a total yield of 230 mg, 26.4% of the desired acid. 1H NMR (DMSO-d6) δ1.27 (bs, 8H); 1.45-1.60 (m, 4H); 2.31 (s, 12H); 2.53 (t, J=7.58 Hz, 2H); 3.23 (quartet, J=6.37 Hz, 2H); 3.81 (s, 2H); 7.00-7.01 (m, 2H); 7.13-7.15 (m, 3H); 7.19-7.25 (m, 6H); 7.76 (s, 2H); 8.48 (t, J=6.00 Hz, 1H); 12.35 (bs, 1H); IR 3325, 2935, 2875, 1750, 1645, 1605, 1580, 1545, 1480, 1460, 1430, 1400, 1385, 1380, 1295, 1250, 1200, 1150, 850, and 700 cm−1; mass spectrum [(+)APCI], m/z 592 [M+H]+; Anal Calcd for C39H45NO4.C2H4O2.C4H8O2: C, 73.03; 7.63; H, 7.63; N, 1.89; Found: C, 73.32, H, 7.88; N, 2.04.

reactant | N-8-phenyloctyl-3,5-bis-(3,5-dimethylphenyl)-4-(2-hydroxyethoxy)benzamide | 1.47 mmol, 850 mg | C1(=CC=CC=C1)CCCCCCCCNC(C1=CC(=C(C(=C1)C1=CC(=CC(=C1)C)C)OCCO)C1=CC(=CC(=C1)C)C)=O | C39H47NO3
reactant | NMMO | 3.05 mmol, 415 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | NMMO | 0.3 mmol, 40 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | O | H2O
reactant | sodium bisulfite sodium dithionite | S([O-])(O)=O.[Na+].S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | TPAP | 0.149 mmol, 52 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
solvent | CH3COOH | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [3,5,3″,5″-Tetramethyl-5′-(8-phenyl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]acetic acid | 200 mg | CC=1C=C(C=C(C1)C)C1=C(C(=CC(=C1)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC(=C1)C)C)OCC(=O)O | C39H45NO4
